US07423030B2
4.3. 7-Methoxy-4-(4-methoxyphenyl)-N-[8-(naphthalen-2-ylmethyl)-8-azabicyclo[3.2.1]oct-3-yl]phthalazin-1-amine
This compound is obtained according to the procedure described in 1.4. by reacting N-[8-(naphthalen-2-ylmethyl)-8-azabicyclo[3.2.1]oct-3-yl]amine and 1-chloro-7-methoxy-4-(4-methoxyphenyl)phthalazine.

reactant | N-[8-(naphthalen-2-ylmethyl)-8-azabicyclo[3.2.1]oct-3-yl]amine | C1=C(C=CC2=CC=CC=C12)CN1C2CC(CC1CC2)N | C18H22N2
reactant | 1-chloro-7-methoxy-4-(4-methoxyphenyl)phthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)C1=CC=C(C=C1)OC | C16H13ClN2O2
product | 7-Methoxy-4-(4-methoxyphenyl)-N-[8-(naphthalen-2-ylmethyl)-8-azabicyclo[3.2.1]oct-3-yl]phthalazin-1-amine | COC1=CC=C2C(=NN=C(C2=C1)NC1CC2CCC(C1)N2CC2=CC1=CC=CC=C1C=C2)C2=CC=C(C=C2)OC | C34H34N4O2
